US04521422
[7-(3-Pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]-2-thiazolyl-methanone
As described for Example 1, (3-amino-1H-pyrazol-4-yl)-2-thiazolyl-methanone was reacted with 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one to give the product as colorless crystals, mp 262°-264° C.

reactant | (3-amino-1H-pyrazol-4-yl)-2-thiazolyl-methanone | NC1=NNC=C1C(=O)C=1SC=CN1 | C7H6N4OS
reactant | 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
product | [7-(3-Pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]-2-thiazolyl-methanone | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)C=2SC=CN2 | C15H9N5OS
